US06566362B2
A suspension of 26 g of ethyl 7,8-difluoro-4-oxoquinoline-3-carboxylate in 212 g of phosphorus oxychloride was heated at 95° C. for 4 hours, with stirring. After treatment, 27.3 g of ethyl 4-chloro-7,8-difluoroquinoline-3-carboxylate was obtained in the form of a white solid, which melted at 114° C.

reactant | ethyl 7,8-difluoro-4-oxoquinoline-3-carboxylate | 26 g | FC1=CC=C2C(C(C=NC2=C1F)C(=O)OCC)=O | C12H9F2NO3
reactant | phosphorus oxychloride | 212 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-7,8-difluoroquinoline-3-carboxylate | 27.3 g | ClC1=C(C=NC2=C(C(=CC=C12)F)F)C(=O)OCC | C12H8ClF2NO2
